US07572809B2
Similar procedure as described in example 378 was used, starting from 2-Piperidin-1-yl-ethanol and (7-Fluoro-1-isopropoxy-6-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine to give [1-Isopropoxy-6-methoxy-7-(2-piperidin-1-yl-ethoxy)-isoquinolin-3-yl]-(5-methyl-1H-pyrazol-3-yl)-amine. LC-MS: m/e 440(MH+).

reactant | 2-Piperidin-1-yl-ethanol | N1(CCCCC1)CCO | C7H15NO
reactant | (7-Fluoro-1-isopropoxy-6-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | FC1=C(C=C2C=C(N=C(C2=C1)OC(C)C)NC1=NNC(=C1)C)OC | C17H19FN4O2
product | [1-Isopropoxy-6-methoxy-7-(2-piperidin-1-yl-ethoxy)-isoquinolin-3-yl]-(5-methyl-1H-pyrazol-3-yl)-amine | C(C)(C)OC1=NC(=CC2=CC(=C(C=C12)OCCN1CCCCC1)OC)NC1=NNC(=C1)C | C24H33N5O3
